US07087750B2
2-Phenyl-1-(phenylsulfonyl)-4-(1-piperazinyl)-1H-indole hydrochloride
tert-Butyl 4-[2-phenyl-1-(phenylsulfonyl)-1H-indol-4-yl]-1-piperazinecarboxylate (30 mg, 0.058 mmol) was dissolved in CH2Cl2 (1 mL) followed by addition of HCl in ether (1 mL). The reaction was shaken for 2 h at room temperature. The resulting precipitate was filtered off and washed with ether giving 20 mg of the desired compound (80%). 1H NMR (270 MHz, DMSO-d6) δ 9.02 (br, 1 H), 7.90–7.80 (m, 3 H), 7.75–7.55 (m, 3 H), 7.32 (s, 1 H), 7.22 (t, J=8 Hz, 1 H), 6.79 (d, J=8 Hz, 1 H), 3.35–310 (m, 8 H). MS (ESI+) for m/z 418 (M+H)+.

reactant | tert-Butyl 4-[2-phenyl-1-(phenylsulfonyl)-1H-indol-4-yl]-1-piperazinecarboxylate | 0.058 mmol, 30 mg | C1(=CC=CC=C1)C=1N(C2=CC=CC(=C2C1)N1CCN(CC1)C(=O)OC(C)(C)C)S(=O)(=O)C1=CC=CC=C1 | C29H31N3O4S
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 1 mL | CCOCC | C4H10O
product | 2-Phenyl-1-(phenylsulfonyl)-4-(1-piperazinyl)-1H-indole hydrochloride | Cl.C1(=CC=CC=C1)C=1N(C2=CC=CC(=C2C1)N1CCNCC1)S(=O)(=O)C1=CC=CC=C1 | InChI=1S/C24H23N3O2S.ClH/c28-30(29,20-10-5-2-6-11-20)27-23-13-7-12-22(26-16-14-25-15-17-26)21(23)18-24(27)19-8-3-1-4-9-19;/h1-13,18,25H,14-17H2;1H
